US07671074B2
N-[amino-(morpholin-4-yl-amino)-methylene]-4-methyl-benzenesulfonamide (20)
The compound of Example 20 was prepared according to the accompanying synthesis procedure from 0.5 ml of N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide solution (0.2 M, acetonitrile) with 19 mg of methanesulfonic acid and 0.5 ml of N-aminomorpholine solution (1.0 M, acetonitrile) and filed in a substance databank. Calculated mol. wt. 298.11; found mol. wt. (M+H) 299.3; 597.1 (Dimer)

reactant | N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide | 0.2 M, 0.5 ml | CC1=NN(C(=C1)C)C(NS(=O)(=O)C1=CC=C(C=C1)C)=N | C13H16N4O2S
reactant | methanesulfonic acid | 19 mg | CS(=O)(=O)O | CH4O3S
reactant | N-aminomorpholine | 1.0 M, 0.5 ml | NN1CCOCC1 | C4H10N2O
product | N-[amino-(morpholin-4-yl-amino)-methylene]-4-methyl-benzenesulfonamide | NC(=NS(=O)(=O)C1=CC=C(C=C1)C)NN1CCOCC1 | C12H18N4O3S
